datasets/10k__Tet_Int.csv
SMILES Labelled
"CC1C(C(O[C:20](=[O:10])N1[H])CC)C.[O-:21][H]>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CC)C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C([H])C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S]C([H])C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[OH:10]C(C1=C(C([CH:20](C)=[OH+:21])[H])C=CC=C1)C>>[OH:21][CH:20]2(C)C(C3=C(C([OH+:10]2)C)C=CC=C3)[H] 10=20;20,21=21"
"CCCCCCC1C(O[C:20](=[O:10])N1CC)C.[O-:21]CC>>CCCCCCC1C(O[C:20](N1CC)([O-:10])[O:21]CC)C 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)[H])CCCCCC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)[H])[O-:10])CCCCCC 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)[H])CC)CC)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CC)[H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])O[H])CC.[O-:21]CCCCCC>>C1=CC=CC=C1N([C:20]([O-:10])(O[H])[O:21]CCCCCC)CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C)C1=CC=CC=C1 10=20;20,21=21"
"CCN([C:20](=[O:10])OCCCCCC)C1=CC=CC=C1.[O-:21]CCCCCC>>CCN([C:20]([O-:10])(OCCCCCC)[O:21]CCCCCC)C1=CC=CC=C1 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CC)C>>CCN([C:20]1(OC(C(C([O:21]1)CC)[H])CC)[O-:10])C 21=20;20,10=10"
"[NH:10](C)C(C=CC=C1)=C1C([H])C([C:20](C)=[O:21])O>>[O-:21][C:20]2(C)C(C([H])C3=C([NH+:10]2(C))C=CC=C3)O 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(C)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"C[O+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].C[O:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[S][H] 21=20;20,10=10"
"[O-:10]C([H])C(C)C(O)C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C(O)C(C)C([H])[O:10]1 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([NH]CC)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([NH]CC)[O]CC 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(CC)[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1([H])[NH+:10](C)C([H])C(C)C1[H]>>[NH:10](C)C([H])C(C)C([C:20]([H])=[O:21])[H] 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C([H])[NH]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C([H])[NH][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"[H]C1C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1.[O-:21]C>>[H]C1C(O[C:20](N1CC)([O-:10])[O:21]C)C1=CC=CC=C1 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(O)C(O)C(C)C(CCC)[O:10]1>>[O-:10]C(CCC)C(C)C(O)C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C(C)[CH](CC)[O]1 10=20;20,21=21"
"CN([C:20]([O-:10])(O[H])[O:21]CC)C1=CC=CC=C1>>CN([C:20](=[O:10])O[H])C1=CC=CC=C1.[O-:21]CC 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OCCCCCC)CC)C1=CC=CC=C1>>C(C([O-:21])C)(C(O[C:20](=[O:10])OCCCCCC)CC)C1=CC=CC=C1 10=20;20,21=21"
"[NH:10](C)C(CC)C(C)C([H])C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C([H])C(C)C(CC)[NH+:10]1(C) 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[O:10]([Na])C(CCC)/C([H])=C(C)\C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C(C)=C([H])C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"C1=CC=CC=C1[O+:10]([Li])[C:21]([O-:20])(OCC)OC>>[O:20]=[C:21](OCC)OC.C1=CC=CC=C1[O:10][Li] 20=21;21,10=10"
"[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)C)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1CC)C)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
